US06294558B1
4-(4-Bromophenyl)-3-methyl-5-(4-methylthiophenyl)isoxazole. (step 3)
The title compound was prepared according to the procedure of step 3 in the Example 190 using 3-(4-bromophenyl)-4-(4-methylthiophenyl)-3-buten-2-one oxime, instead of 4-(4-bromophenyl)-3-phenyl-3-buten-2-one oxime.

reactant | 3-(4-bromophenyl)-4-(4-methylthiophenyl)-3-buten-2-one oxime | BrC1=CC=C(C=C1)C(C(C)=NO)=CC1=CC=C(C=C1)SC | C17H16BrNOS
reactant | 4-(4-bromophenyl)-3-phenyl-3-buten-2-one oxime | BrC1=CC=C(C=C1)C=C(C(C)=NO)C1=CC=CC=C1 | C16H14BrNO
product | 4-(4-Bromophenyl)-3-methyl-5-(4-methylthiophenyl)isoxazole | BrC1=CC=C(C=C1)C=1C(=NOC1C1=CC=C(C=C1)SC)C | C17H14BrNOS
